US05264454
To a solution of 3-amino-4-(2-chlorophenyl)-7,8-dihydro-6H-cyclopenta[g]quinoline (2.5 g) in tetrahydrofuran (25 ml) was added 2,4-difluorophenyl isocyanate (1.2 ml) dropwise and the mixture was stirred for 5 hours at room temperature. The solvent was then distilled off to give crystals of N-[4-(2-chlorophenyl)-7,8-dihydro-6H-cyclopenta[g]quinolin-3-yl]-N'-(2,4-difluorophenyl)urea. The crystals were collected by filtration and washed with isopropyl ether (3.42 g, 89.8%). Recrystallization from acetic acid-water gave colorless needles, m.p. 247°-248° C.

reactant | 3-amino-4-(2-chlorophenyl)-7,8-dihydro-6H-cyclopenta[g]quinoline | 2.5 g | NC=1C=NC2=CC3=C(C=C2C1C1=C(C=CC=C1)Cl)CCC3 | C18H15ClN2
reactant | 2,4-difluorophenyl isocyanate | 1.2 ml | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-[4-(2-chlorophenyl)-7,8-dihydro-6H-cyclopenta[g]quinolin-3-yl]-N'-(2,4-difluorophenyl)urea | ClC1=C(C=CC=C1)C1=C(C=NC2=CC3=C(C=C12)CCC3)NC(=O)NC3=C(C=C(C=C3)F)F | C25H18ClF2N3O
